US06653471B2
A mixture of 5-dimethylaminomethylene-4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta [b]pyrrole-3-carboxylic acid ethyl ester (840 mg) and formamidine acetate (956 mg, 9.1 mmol) in EtOH (10 mL) is stirred at 120° C. for 4 h. After cooling, the reaction mixture is diluted with CH2Cl2 and washed with half saturated aq NaHCO3 (25 mL), H2O (25 mL), and brine (25 mL) The aqueous washes are reextracted once with CH2Cl2, and the combined extracts are dried over K2CO3 and concentrated. The crude material is purified by flash chromatography on silica gel. Elution with 30:1 CHCl3-MeOH followed by 20:1 CHCl3-MeOH and finally 15:1 CHCl3-MeOH afforded 606 mg (77%) of 3,4,5,6-tetrahydro-3,8,10-triaza-benzo[e]azulene-1-carboxylic acid ethyl ester as a light yellow solid. 1H NMR (CDCl3, 300 MHz) δ9.30 (br s, 1H), 9.02 (s, 1H), 8.43 (s, 1H), 7.24 (d, J=2.7 Hz, 1H), 4.26 (q, J=7.2 Hz, 2H), 2.78 (t, J=7.2 Hz, 2H) 2.70 (m, 2H), 2.12 (m, 2H), 1.26 (t, J=7.2 Hz, 3H).

reactant | 5-dimethylaminomethylene-4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta [b]pyrrole-3-carboxylic acid ethyl ester | 840 mg | C(C)OC(=O)C=1C2=C(NC1)CCCC(C2=O)=CN(C)C | C15H20N2O3
reactant | formamidine acetate | 9.1 mmol, 956 mg | C(C)(=O)O.C(=N)N
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,4,5,6-tetrahydro-3,8,10-triaza-benzo[e]azulene-1-carboxylic acid ethyl ester | 606 mg, 77% | C(C)OC(=O)C1=CNC=2CCCC3=C(C12)N=CN=C3 | C14H15N3O2
